** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_buffor.sch
**.subckt PFD_buffor gnd vp out in
*.iopin gnd
*.iopin vp
*.ipin in
*.iopin out
XM1 out_stage1 in gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
XM4 out_stage1 in vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1
XM2 out out_stage1 gnd gnd sg13_lv_nmos w=1.2u l=0.15u ng=1
XM3 out out_stage1 vp vp sg13_lv_pmos w=1.2u l=0.15u ng=1
**.ends
.end
